US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,5-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)pentanediamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]pentanediamide (47.0 mg, 0.076 mmol) was diluted in DMSO (1.0 mL) and dispensed into a 1 dram vial containing 2,6-dimethylpiperazine (0.76 mmol), ZnCl2 (0.032 mmol, 4.2 mg), NaB(OAc)3H (0.76 mmol, 180 mg) and fitted with a magnetic stir bar, for 12 h. The material was purified via reverse phase HPLC using a Gilson and the desired product collected. The desired product was dissolved in dichloromethane (1 mL) and washed through 2 g SPE-amine columns (EtOAc:MeOH=4:1, 5 mL) to afford the title compound. LC-MS m/z 727 (M+H)+, 1.09 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]pentanediamide | 0.076 mmol, 47.0 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)=O)CC | C35H41FN6O4
reactant | 2,6-dimethylpiperazine | 0.76 mmol | CC1NC(CNC1)C | C6H14N2
reactant | NaB(OAc)3H | 0.76 mmol, 180 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
catalyst | ZnCl2 | 0.032 mmol, 4.2 mg | [Cl-].[Cl-].[Zn+2]
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,5-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)pentanediamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CC(NC(C2)C)C)=O)CC | C41H55FN8O3
